US06900215B2
A suspension of 2′-fluoro-5′-(7-formylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile (260 mg, 0.8 mmol) in methanol (3 ml) was treated with hydroxylamine (0.13 ml of a 50 wt. % solution in water) then heated at 60° C. for 3 h. The reaction was cooled to 0° C., the solid collected by filtration and washed with a little cold methanol to afford 2′-fluoro-5′-[7-(hydroxyiminomethyl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile as a yellow solid. This solid was suspended in dichloromethane (5 ml), treated with 1,1′-carbonyldiimidazole (180 mg, 1.1 mmol) and triethylamine (0.31 ml, 2.3 mmol) then heated at reflux for 2 h. The reaction was cooled, diluted with dichloromethane then washed with water, brine, dried over anhydrous sodium sulfate, filtered and pre-adsorbed onto silica. Purification by chromatography on silica gel eluting with dichloromethane/methanol/conc. ammonia (99:0.9:0.1) afforded a solid which was recrystallised from acetonitrile to furnish 3-(2′-cyano-6-fluorobiphenyl-3-yl)imidazo[1,2-α]pyrimidine-7-carbonitrile as a yellow powder (160 mg, 63% over 2 steps): δH (400 MHz, DMSO) 7.64-7.72 (3H, m), 7.78-7.81 (1H, m), 7.89 (1H, ddd, J 7, 7 and 1), 7.94-7.99 (2H, m), 8.05 (1H dd, J 8 and 2), 8.43 (1H, s), 9.36 (1H, d, J 7); m/z (ES+) 340 (M++H).

reactant | 2′-fluoro-5′-(7-formylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | 0.8 mmol, 260 mg | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C=O)C=2C(=CC=CC2)C#N | C20H11FN4O
reactant | hydroxylamine | NO | H3NO
solvent | methanol | 3 ml | CO | CH4O
solvent | water | O | H2O
product | 2′-fluoro-5′-[7-(hydroxyiminomethyl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C=NO)C=2C(=CC=CC2)C#N | C20H12FN5O
